US09278968B2
Under an argon atmosphere, to a solution of 500 mg of ethyl (1-methyl-1H-pyrazol-4-yl)(oxo)acetate that had been cooled in a dry ice-acetone bath in 7.5 ml of THF was added 1.56 ml of a 3.0 M methyl magnesium bromide/diethyl ether solution, followed by stirring for 1 hour. To the reaction mixture was added a saturated aqueous ammonium chloride solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 302 mg of ethyl 2-hydroxy-2-(1-methyl-1H-pyrazol-4-yl)propanoate.

reactant | ethyl (1-methyl-1H-pyrazol-4-yl)(oxo)acetate | 500 mg | CN1N=CC(=C1)C(C(=O)OCC)=O | C8H10N2O3
reactant | methyl magnesium bromide diethyl ether | 3.0 M | C[Mg]Br.C(C)OCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 7.5 ml | C1CCOC1 | C4H8O
product | ethyl 2-hydroxy-2-(1-methyl-1H-pyrazol-4-yl)propanoate | 302 mg | OC(C(=O)OCC)(C)C=1C=NN(C1)C | C9H14N2O3
